US06265575B1
Part A. 2-[4-[2-(1-Pyrrolidinyl)ethoxy]phenyl-5-(trifluoromethylsulfonyloxy)benzo[b]thiophene
The title compound was prepared from 5-methoxy-[2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene in 56% yield for 2 steps via demethylation previously described and triflate formation by a conventional method.

reactant | 2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene | N1(CCCC1)CCOC1=CC=C(C=C1)C1=CC2=C(S1)C=CC=C2 | C20H21NOS
reactant | triflate | [O-]S(=O)(=O)C(F)(F)F
product | 4-[2-(1-Pyrrolidinyl)ethoxy]phenyl-5-(trifluoromethylsulfonyloxy)benzo[b]thiophene | 56% yield | N1(CCCC1)CCOC1=CC=C(C=C1)C1=CC2=C(S1)C=CC(=C2)OS(=O)(=O)C(F)(F)F | C21H20F3NO4S2
